US06821980B1
A solution of 5-(6-ethoxy-3′-fluoro-2-methoxymethoxy-4′-morpholin-4-ylmethyl-biphenyl-4-ylmethyl)-pyrimidine-2,4-diamine (120 mg; 0.24 mmol) in 20 ml methanol is heated to 50° C., 2.7 ml 4.5 M hydrochloric acid in methanol are then added and the mixture is stirred for 1 hour at this temperature. The pale yellow solution is cooled to 0° C., adjusted to pH 10 with 25% aqueous ammonia solution and concentrated to a volume of 2 ml. 20 ml water are added to the residue and the mixture is extracted three times with 50 ml methylene chloride each time. The combined organic phases are dried over magnesium sulphate and concentrated. 57 mg (52%) 4-(2,4-diamino-pyrimidin-5-ylmethyl)-6-ethoxy-3′-fluoro-4′-morpholin-4-ylmethyl-biphenyl-2-ol are obtained as a colourless powder.

reactant | 5-(6-ethoxy-3′-fluoro-2-methoxymethoxy-4′-morpholin-4-ylmethyl-biphenyl-4-ylmethyl)-pyrimidine-2,4-diamine | 0.24 mmol, 120 mg | C(C)OC1=CC(=CC(=C1C1=CC(=C(C=C1)CN1CCOCC1)F)OCOC)CC=1C(=NC(=NC1)N)N | C26H32FN5O4
reactant | hydrochloric acid | 4.5 M, 2.7 ml | Cl | ClH
reactant | ammonia | N | H3N
solvent | methanol | 20 ml | CO | CH4O
product | 4-(2,4-diamino-pyrimidin-5-ylmethyl)-6-ethoxy-3′-fluoro-4′-morpholin-4-ylmethyl-biphenyl-2-ol | 57 mg, 52% | NC1=NC=C(C(=N1)N)CC=1C=C(C(=C(C1)OCC)C1=CC(=C(C=C1)CN1CCOCC1)F)O | C24H28FN5O3
